US04387223
A mixture of 1.54 g of 1-cyclopropylmethyl-4-phenyl-6-methoxy-3,4-dihydro-2(1H)-quinazolinone, 0.48 g of sulfur and 10 ml of o-dichlorobenzene was stirred under reflux for 5 hours. The solvent was then removed under reduced pressure, and the residue was treated with hot acetone. The insoluble sulfur was filtered off and the filtrate was concentrated to dryness. The residue was recrystallized from toluene to give 1.35 g of 1-cyclopropylmethyl-4-phenyl-6-methoxy-2(1H)-quinazolinone, m.p. 114°-115° C.

reactant | 1-cyclopropylmethyl-4-phenyl-6-methoxy-3,4-dihydro-2(1H)-quinazolinone | 1.54 g | C1(CC1)CN1C(NC(C2=CC(=CC=C12)OC)C1=CC=CC=C1)=O | C19H20N2O2
reactant | sulfur | 0.48 g | [S] | S
solvent | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-cyclopropylmethyl-4-phenyl-6-methoxy-2(1H)-quinazolinone | 1.35 g | C1(CC1)CN1C(N=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)=O | C19H18N2O2
